US09102671B2
To a solution of 2-bromo-5-fluorobenzaldehyde (2.44 g, 12.0 mmol) and (S)-(−)-2-methyl-2-propane-sulfinamide (1.45 g, 12.0 mmol) in THF (30 mL, anhyd.) was added titanium tetraethoxide (2.8 mL, 13.2 mmol, tech) at room temperature. After stirring 16 hours the reaction mixture was charged with brine (25 mL) and EtOAc (40 mL). After stirring 10 minutes the mixture was filtered through a pad of Celite™. Combined filtrates were washed with water and brine, dried over sodium sulfate and concentrated. The residue was purified by silica chromatography with EtOAc/Hex (0-25%) as eluent to give (S,E)-N-(2-bromo-5-fluorobenzylidene)-2-methylpropane-2-sulfinamide (I-44) as a white solid. 1H NMR (400 MHz, CDCl3) δ 8.94 (d, J=2.2 Hz, 1 H), 7.77 (dd, J=3.1, 9.1 Hz, 1 H), 7.64 (dd, J=5.0, 8.8 Hz, 1 H), 7.12 (ddd, J=3.1, 7.5, 8.8 Hz, 1 H), 1.30 (s, 9 H).

reactant | 2-bromo-5-fluorobenzaldehyde | 12.0 mmol, 2.44 g | BrC1=C(C=O)C=C(C=C1)F | C7H4BrFO
reactant | (S)-(−)-2-methyl-2-propane-sulfinamide | 12.0 mmol, 1.45 g | CC(C)(C)[S@](=O)N | C4H11NOS
reactant | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | brine | 25 mL | [Cl-].[Na+].O
catalyst | titanium tetraethoxide | 13.2 mmol, 2.8 mL | [O-]CC.[O-]CC.[O-]CC.[O-]CC.[Ti+4]
product | (S,E)-N-(2-bromo-5-fluorobenzylidene)-2-methylpropane-2-sulfinamide | BrC1=C(\C=N\[S@@](=O)C(C)(C)C)C=C(C=C1)F | C11H13BrFNOS
